US07855288B2
B. 5-Hydrazonomethyl-2-methyl-1H-pyrrole-3-carboxylic acid ethyl ester
To a solution of 5-formyl-2-methyl-1H-pyrrole-3-carboxylic acid ethyl ester (6.30 g, 0.034 mol) in EtOH (6.3 mL) was added a solution of hydrazine (1.69 mL, 0.034 mol). The reaction mixture was stirred at RT overnight. The resulting precipitate was filtered and dried in vacuo to give the titled compound, 6.79 g as a light yellow solid. This material was used without further purification.

reactant | 5-formyl-2-methyl-1H-pyrrole-3-carboxylic acid ethyl ester | 0.034 mol, 6.30 g | C(C)OC(=O)C1=C(NC(=C1)C=O)C | C9H11NO3
reactant | hydrazine | 0.034 mol, 1.69 mL | NN | H4N2
solvent | EtOH | 6.3 mL | CCO | C2H6O
product | 5-Hydrazonomethyl-2-methyl-1H-pyrrole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(NC(=C1)C=NN)C | C9H13N3O2
